US05952362
According to the method of Martin, Helv. Chem. Acta. (1989) 72:1554, a mixture of N-allyl-N-(2-bromo-5-nitrophenyl)methanesulfonamide (2.45 g, 7.31 mmol), palladium acetate (83 mg, 0.37 mmol), tri-o-tolyl phoshpine (222 mg, 0.73 mmol) and diisopropylethylamine (1.42 g, 11.0 mmol) in 10 ml of toluene was heated to reflux for 18 hr. The reaction was cooled and filtered through a fine Whatman glass fiber filter to remove the palladium. The mixture was diluted with 100 ml of ethyl acetate, then washed successively with 1M HCl (50 ml) and brine. The extracts were dried (anhydrous MgSO4) and concentrated. The crude product was dissolved in acetone. Silica gel (10 g) was added then the solvent was removed at reduced pressure. The resultant powder was applied to silica gel column (110 g) and eluted with 25% ethyl acetate/hexane to give 1.17 g of 1-methanesulfonyl-3-methyl-6-nitro-1H-indole (63% yield).

reactant | N-allyl-N-(2-bromo-5-nitrophenyl)methanesulfonamide | 7.31 mmol, 2.45 g | C(C=C)N(S(=O)(=O)C)C1=C(C=CC(=C1)[N+](=O)[O-])Br | C10H11BrN2O4S
reactant | diisopropylethylamine | 11.0 mmol, 1.42 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.37 mmol, 83 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-methanesulfonyl-3-methyl-6-nitro-1H-indole | 1.17 g, 63% yield | CS(=O)(=O)N1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C | C10H10N2O4S
